US07923456B2
Step 1: 8-Fluoro-5-(2-fluoro-4-iodo-phenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid (2-vinyloxy-ethoxy)-amide
8-Fluoro-5-(2-fluoro-4-iodo-phenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid (0.20 g, 0.48 mmol), O-(2-vinyloxyethyl)-hydroxylamine (55 mg, 0.53 mmol), EDCI (102 mg, 0.53 mmol), HOBt (72 mg, 0.53 mmol) and DIPEA (90 μL, 0.53 mmol) were dissolved in DMF (10 mL) and the reaction mixture stirred at room temperature for 16 hours before being concentrated in vacuo. The resultant residue was dissolved in ethyl acetate (10 mL), washed with aqueous saturated sodium bicarbonate solution (10 mL) and the aqueous fraction extracted twice with ethyl acetate (2×10 mL). The combined organic fractions were washed with brine (20 mL), dried (MgSO4) and concentrated in vacuo. The resultant residue was subjected to flash chromatography (SiO2, gradient 0-10% methanol in DCM) to yield the title compound as a pale yellow solid (200 mg, 83%). LCMS (Method B): RT=3.41 min, [M+H]+=501.

reactant | 8-Fluoro-5-(2-fluoro-4-iodo-phenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid | 0.48 mmol, 0.20 g | FC=1C=2N(C(=C(C1)C(=O)O)NC1=C(C=C(C=C1)I)F)C=NC2 | C14H8F2IN3O2
reactant | O-(2-vinyloxyethyl)-hydroxylamine | 0.53 mmol, 55 mg | C(=C)OCCON | C4H9NO2
reactant | EDCI | 0.53 mmol, 102 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.53 mmol, 72 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.53 mmol, 90 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 8-Fluoro-5-(2-fluoro-4-iodo-phenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid (2-vinyloxy-ethoxy)-amide | 200 mg, 83% | C(=C)OCCONC(=O)C=1C=C(C=2N(C1NC1=C(C=C(C=C1)I)F)C=NC2)F | C18H15F2IN4O3
